US06525049B2
A solution of N-(4-chlorobenzyl)-4-hydroxy-8-iodo-3-quinolinecarboxamide (prepared according to the general procedure in WO 9932450, 0.53 g), copper iodide (0.11 g), bis(triphenylphosphine)palladium(II) chloride (0.043 g) and propargyl alcohol (0.085 mL) in 20 mL diethylamine is stirred at room temperature for 18 h. The solid in the reaction mixture is filtered, washed with hexanes and dried. The solid is dissolved in CH2Cl2/MeOH and adsorbed onto silica. Purification by chromatography (gradient from CH2Cl2 to 3% MeOH/CH2Cl2) affords N-(4-chlorobenzyl)-2-(hydroxymethyl)-6-oxo-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide as a white solid (0.23 g, 52%), m.p. 211-213° C.

reactant | N-(4-chlorobenzyl)-4-hydroxy-8-iodo-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=CC=C3C2O)I)C=C1 | C17H12ClIN2O2
reactant | propargyl alcohol | 0.085 mL | C(C#C)O | C3H4O
solvent | diethylamine | 20 mL | C(C)NCC | C4H11N
catalyst | copper iodide | 0.11 g | [Cu](I)I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.043 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(4-chlorobenzyl)-2-(hydroxymethyl)-6-oxo-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide | 0.23 g, 52% | ClC1=CC=C(CNC(=O)C2=CN3C4=C(C=CC=C4C2=O)C=C3CO)C=C1 | C20H15ClN2O3
